US08461343B2
5-iodo-3-trifluoromethyl-2-pyridinol
3-trifluoromethyl-2-pyridinol (25 g, 153.3 mmol) is dissolved in anhydrous CH3CN (150 mL) and DMF (150 mL). N-iodosuccinimide (34.5 g, 153 mmol) is then added. The reaction mixture is stirred at 80° C. for 2 hours and cooled to room temperature. Aqueous 1 M NaHCO3 (150 mL) is then added to the cooled mixture. After stirring for 5 min, the solvents are evaporated to dryness. Water is added and the aqueous phase is extracted (×2) with dichloromethane. The organic phase is then evaporated and the desired product is recrystallized in water to afford 36.2 g (81%) of a white powder.

reactant | 3-trifluoromethyl-2-pyridinol | 153.3 mmol, 25 g | FC(C=1C(=NC=CC1)O)(F)F | C6H4F3NO
reactant | N-iodosuccinimide | 153 mmol, 34.5 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | NaHCO3 | 1 M, 150 mL | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 150 mL | CC#N | C2H3N
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 5-iodo-3-trifluoromethyl-2-pyridinol | 36.2 g, 81% | IC=1C=C(C(=NC1)O)C(F)(F)F | C6H3F3INO
